US05098929
A solution of 2,2-dicarbethoxycyclohexanone (3.0 g.) in dry ether (15 ml.) was added dropwise to a stirred suspension of lithium aluminium hydride (1.4 g.) in dry ether (50 ml.) at 0°, under nitrogen. The mixture was refluxed, with stirring, for six hours. Potassium hydroxide (6 g.) in water (100 ml) was added to the stirred mixture. Dipotassium hydrogen phosphate (4.2 g.) and potassium dihydrogen phosphate (3.3 g.) in water (50 ml.) was added. Ether was removed by passing a current of nitrogen through the mixture. The resultant slurry was acidified with glacial acetic acid and the solid was filtered off. The filtrate was evaporated in vacuo. The residue was extracted with acetone and the solution was evaporated in vacuo. 2,2Di-(hydroxymethyl)-cyclohexanol (1.2 g.) was obtained as a pale yellow oil.

reactant | 2,2-dicarbethoxycyclohexanone | 3.0 g | C(=O)(OCC)C1(C(CCCC1)=O)C(=O)OCC | C12H18O5
reactant | lithium aluminium hydride | 1.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Potassium hydroxide | 6 g | [OH-].[K+]
reactant | Dipotassium hydrogen phosphate | 4.2 g | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | potassium dihydrogen phosphate | 3.3 g | P(=O)(O)(O)[O-].[K+]
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | water | 100 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 2,2Di-(hydroxymethyl)-cyclohexanol | 1.2 g | OCC1(C(CCCC1)O)CO | C8H16O3
